US04673686
N-(1-cyclopentyl-2-pyrrolidylmethyl)-2-methoxy-3-isopropyl-5-sulphamoyl-6-methyl benzamide
3.4 g of 1-cyclopentyl-2-aminomethylpyrrolidine (0.020 mole) and 40 ml of methyl-ethyl-ketone are placed in a 250 flask fitted with an agitator, a thermometer and a dropping funnel. The mixture is cooled to about +10° C., then a solution of 5.5 g of 2-methoxy-3-isopropyl-5-sulphamoyl-6-methylbenzoyl chloride (0.018 mole) in 40 ml of methyl-ethyl-ketone is poured in drop by drop. The mixture is reacted 1 hour at room temperature, then the solvent is evaporated under vacuum and the residue dissolved in 100 ml of hydrochloric acid (density 1.18). An insoluble rubbery product is filtered off, and the filtrate is made alkaline with 15 ml of ammonia (density 0.91). The precipitate formed is filtered, washed with water then re-crystallised in 30 ml of ethyl acetate. The crystals are filtered, washed with a little solvent and dried in an oven at 50°046732772 C. 1.3 g (17%) of product is obtained, melting at 196° C.

reactant | 1-cyclopentyl-2-aminomethylpyrrolidine | 0.020 mole, 3.4 g | C1(CCCC1)N1C(CCC1)CN | C10H20N2
reactant | 2-methoxy-3-isopropyl-5-sulphamoyl-6-methylbenzoyl chloride | 0.018 mole, 5.5 g | COC1=C(C(=O)Cl)C(=C(C=C1C(C)C)S(N)(=O)=O)C | C12H16ClNO4S
solvent | methyl-ethyl-ketone | 40 ml | CC(=O)CC | C4H8O
solvent | methyl-ethyl-ketone | 40 ml | CC(=O)CC | C4H8O
product | N-(1-cyclopentyl-2-pyrrolidylmethyl)-2-methoxy-3-isopropyl-5-sulphamoyl-6-methyl benzamide | 1.3 g, 17% | C1(CCCC1)N1C(CCC1)CNC(C1=C(C(=CC(=C1C)S(N)(=O)=O)C(C)C)OC)=O | C22H35N3O4S
